### PR TITLE
[Merged by Bors] - feat(Geometry/Manifold): API for extended coordinate changes

### PR DESCRIPTION
**Pull request by peabrainiac**
Introduce a definition `I.extendCoordChange e e'` for what previously appeared in lemmas as `(e.extend I).symm ≫ e'.extend I`, and provide some more API lemmas. Split out from #33189.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
I'm wondering if `extendCoordChange` should be an `abbrev` and not a `def`. We don't want to really encapsulate that definition, do we? What do you think?

File: Mathlib/Geometry/Manifold/IsManifold/ExtChartAt.lean [hunk 1]
```diff
@@ -315,58 +316,134 @@ theorem extend_symm_preimage_inter_range_eventuallyEq {s : Set M} {x : M} (hs :
...
 
-theorem extend_image_source_inter :
-    f.extend I '' (f.source ∩ f'.source) = ((f.extend I).symm ≫ f'.extend I).source := by
-  simp_rw [f.extend_coord_change_source, f.extend_coe, image_comp I f, trans_source'', symm_symm,
-    symm_target]
+lemma extendCoordChange_source :
+    (I.extendCoordChange e e').source = I '' (e.symm ≫ₕ e').source := by
+  simp_rw [extendCoordChange, PartialEquiv.trans_source, I.image_eq, e'.extend_source,
+    PartialEquiv.symm_source, e.extend_target, inter_right_comm _ (range I)]
+  rfl
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/IsManifold/ExtChartAt.lean]: I always worry that `rfl` proofs like this are abusing `defeq`:
```suggestion
  simp [Set.preimage_comp]
```

**Review by ocfnash — APPROVED** [review]
Just one nitpick but otherwise LGTM.

I agree that `abbrev` is the right call and I note that deprecations seem to be in place.

bors d+
